US08975265B2
To a solution of {1-[4-(6-ethoxy-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (255 mg, 0.53 mmol) in MeOH (2.1 mL) and CH2Cl2 (3.4 mL) was added a 4 molar solution of HCl in dioxane (2.6 mL, 10.5 mmol, 20 equiv). The resulting solution was stirred at room temperature for 12 h, then was concentrated under reduced pressure. The remaining material was purified using MPLC (Isolute Flash NH2 reverse phase column; 100% CH2Cl2 for 5 min., gradient to 95% CH2Cl2: 5% MeOH over 15 minutes; gradient to 90% CH2Cl2: 10% MeOH over 15 min.; gradient to 80% CH2Cl2: 20% MeOH over 15 min.; and gradient to 75% CH2Cl2: 25% MeOH over 15 min.) to give 1-[4-(6-ethoxy-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutylamine (38 mg, 19%):

reactant | {1-[4-(6-ethoxy-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.53 mmol, 255 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)OCC)C1C1=CC=CC=C1)=O | C30H33N3O3
reactant | HCl | Cl | ClH
reactant | dioxane | 10.5 mmol, 2.6 mL, 20 equiv | O1CCOCC1 | C4H8O2
solvent | MeOH | 2.1 mL | CO | CH4O
solvent | CH2Cl2 | 3.4 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(6-ethoxy-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutylamine | 38 mg, 19% | C(C)OC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)N)C2=CC=CC=C2 | C25H25N3O
